US04511392
The reactions of Equation 37 above can be run according to similar procedures described in U.S. 4,259,104; Golfier and Milcent, J. Heterocycl. Chem., 10, 989 (1973); and R. Madhavan and V. Srinivasan, Indian J. Chem. 7, 760 (1969). Thus, in reaction 37a, a 2-nitrobenzhydrazide XLVIII is reacted with phosgene in an aprotic solvent such as benzene at ambient temperature for about 10 hours, followed by addition of two mole equivalents of triethylamine and heating at reflux for about 2 hours to form 2-(2-nitrophenyl)-1,3,4-oxadiazolin-5-one of Formula (LI). In reaction 37b, LI is reacted with phosphorus pentachloride in phosphorus oxychloride or with phosphorus pentabromide in phosphorus oxybromide at 25° to 80° C. for about 5 hours to form (Xk'"). And in reaction 37c, Xk'" is reacted with sodium methoxide or sodium ethoxide in a solvent such as methanol or tetrahydrofuran at 0° to 30° C. for about 0.5 to 5 hours to form Xk"".

reactant | 2-nitrobenzhydrazide | [N+](=O)([O-])C1=C(C(=O)NN)C=CC=C1 | C7H7N3O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(2-nitrophenyl)-1,3,4-oxadiazolin-5-one | [N+](=O)([O-])C1=C(C=CC=C1)C=1OC(NN1)=O | C8H5N3O4
